* postlayout-cl-model: miller
.lib '{PDK_MODELS}/cornerHBT.lib' hbt_typ
.lib '{PDK_MODELS}/cornerMOSlv.lib' mos_tt
.lib '{PDK_MODELS}/cornerRES.lib' res_typ
.lib '{PDK_MODELS}/cornerCAP.lib' cap_typ

* ctle_dut — post-layout DUT wrapper; do not edit by hand
.include {IND_SHUNT_INC}
.subckt ctle_dut outp outn inp inn vdd vss mgate
X$1 outn nlp2 vss rppd w=5u l=1.4u ps=0u b=0 m=1
XQ2 outn inn e2 vss npn13G2 we=70n le=900n nx=1
X$3 outp nlp1 vss rppd w=5u l=1.4u ps=0u b=0 m=1
XQ1 outp inp e1 vss npn13G2 we=70n le=900n nx=1
X$5 e1 e2 vss rsil w=0.5u l=5u ps=0u m=1
Xtail2 e2 mgate vss vss sg13_lv_nmos l=1u w=243u as=82.62p ad=82.62p ps=503u pd=503u rfmode=0 pre_layout=0
Xtail1 e1 mgate vss vss sg13_lv_nmos l=1u w=243u as=82.62p ad=82.62p ps=503u pd=503u rfmode=0 pre_layout=0
Xmdiode mgate mgate vss vss sg13_lv_nmos l=1u w=243u as=82.62p ad=82.62p ps=503u pd=503u rfmode=0 pre_layout=0
C0 e1 e2 0.1357f
C1 e1 inn 0.02861f
C2 e1 inp 1.81241f
C3 e1 mgate 11.42644f
C4 e1 outp 0.3704f
C5 e1 vss 61.32552f
C6 e2 inn 1.91356f
C7 e2 mgate 11.40584f
C8 e2 outn 0.3704f
C9 e2 vss 61.1835f
C10 inn mgate 0.12781f
C11 inn outn 0.01821f
C12 inn vdd 0.21688f
C13 inn vss 9.63621f
C14 inp mgate 0.12812f
C15 inp outp 0.01821f
C16 inp vdd 0.21688f
C17 inp vss 9.76232f
C18 mgate vdd 0.86488f
C19 mgate vss 0.12304p
C20 nlp1 outp 0.75774f
C21 nlp1 vdd 0.75958f
C22 nlp1 vss 5.05693f
C23 nlp2 outn 0.75774f
C24 nlp2 vdd 0.75958f
C25 nlp2 vss 5.05693f
C26 outn vdd 0.37881f
C27 outn vss 13.41014f
C28 outp vdd 0.37881f
C29 outp vss 13.54403f
C30 vdd vss 0.13456p
Xcdeg e1 e2 cap_cmomi w=12.4252u l=12.4252u mmin=2 mmax=5 feed=same m=1
Xl1 vdd nlp1 vss ind_shunt
Xl2 vdd nlp2 vss ind_shunt
.ends ctle_dut
